US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure M, (6-bromo-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone (25 mg, 0.053 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (27 mg, 0.10 mmol) to afford the desired product (17 mg, 60%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 9.11 (s, 1H), 8.34 (d, J=2.0 Hz, 1H), 7.97 (dd, J=8.7, 2.0 Hz, 1H), 7.88 (d, J=8.7 Hz, 1H), 7.48 (s, 1H), 7.38 (d, J=11.8, 1H), 4.46-4.38 (m, 1H), 4.18-4.10 (m, 1H), 3.08-3.01 (m, 2H), 2.93-2.78 (m, 3H), 2.70-2.64 (m, 2H), 2.331 (d, J=12.9 Hz, 2H), 2.23-2.12 (m, 1H), 2.01 (t, J=13.6 Hz, 2H), 1.87-1.80 (m, 1H), 1.75-1.71 (m, 1H), 1.56 (q, J=12.4 Hz, 2H), 1.27-1.05 (m, 6H). ESI MS m/z 538 [C30H33ClFN3O3+H]+; HPLC>99% (AUC), tR=10.78 min.

reactant | (6-bromo-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 0.053 mmol, 25 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CC(CC1)O | C24H30BrN3O2
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.10 mmol, 27 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((trans-4-((3-hydroxypyrrolidin-1-yl)methyl)cyclohexyl)amino)quinolin-3-yl)(cyclopropyl)methanone | 17 mg, 60% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)CN1CC(CC1)O | C30H33ClFN3O3
